US06534495B1
To a solution of 2.47 g of thiomorpholine in 25 mL of methanol was added 5.75 g of di-tert-butyl dicarbonate and 4 mL of triethylamine. After stirring at room temperature for 3h, 50 mL of ethyl acetate was added and this solution was washed with water adjusted to pH 3 with hydrochloric acid, water, aqueous 5% sodium hydrogencarbonate and brine, dried over magnesium sulfate and concentrated to give 4.73 g of N-tert-butyloxycarbonyl thiomorpholine. This residue (4.73 g) was dissolved in 50 mL of dichloromethane and 50 mL of water was added. To this stirred mixture was added 11 g 3-chloroperoxybenzoic acid (80-90% purity) in small portions keeping the reaction mixture at pH 7. After stirring at room temperature for 16 h the water layer was separated, the organic layer washed with 5% aqueous sodium thiosulfate, 5% aqueous sodium hydrogencarbonate (three times) and brine, dried over magnesium sulfate and concentrated. The residue was purified by chromatography on silica gel (eluent: ethyl acetate/heptanes 2/3 v/v) to give 5.7 g of N-tert-butyloxycarbonyl thiomorpholine 1,1-dioxide. This sulfon (0.625 g) was dissolved in 50 mL of a 3M hydrogenchloride solution in dioxane and after stirring for 4 hours at room temperature the reaction mixture was concentrated to give 0.579 g of thiomorpholine 1,1-dioxide hydrochloride.

reactant | thiomorpholine | 2.47 g | N1CCSCC1 | C4H9NS
reactant | di-tert-butyl dicarbonate | 5.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
product | N-tert-butyloxycarbonyl thiomorpholine | 4.73 g | C(C)(C)(C)OC(=O)N1CCSCC1 | C9H17NO2S
